US09428509B2
1-(2-Methoxyethyl)-4-nitro-1H-pyrazole
A mixture of 4-nitro-1H-pyrazole (1 equiv), 1-bromo-2-methoxyethane (1.05 equiv), potassium carbonate (1.5 equiv) and acetonitrile (0.44 M) was stirred and heated to 60° C. for 6 h. The resultant mixture was evaporated and the residue was purified by flash chromatography (2.5% MeOH in DCM) to afford the desired product as a yellow solid (76% yield). 1H NMR (400 MHz, CHLOROFORM-d1) δ ppm 8.25 (s, 1H), 8.08 (s, 1H), 4.34-4.31 (t, J=4.8 Hz, 2H), 3.77-3.74 (t, J=4.8 Hz, 2H), 3.37 (s, 3H).

reactant | 4-nitro-1H-pyrazole | 1 equiv | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 1-bromo-2-methoxyethane | 1.05 equiv | BrCCOC | C3H7BrO
reactant | potassium carbonate | 1.5 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 0.44 M | C(C)#N | C2H3N
product | 1-(2-Methoxyethyl)-4-nitro-1H-pyrazole | 76% yield | COCCN1N=CC(=C1)[N+](=O)[O-] | C6H9N3O3
